US07700628B2
C. 2-[4-(tert-Butyl)-2-(1-Boc-piperidin-4-yloxy)benzylamino]-5-chloro-N-(5-chloropyridin-2-yl)benzamide
A solution of the 4-(tert-butyl)-2-(1-Boc-piperidine-4-yloxy)benzaldehyde (0.15 g, 0.42 mmol), N-(5-chloropyridin-2-yl)-2-amino-5-chlorobenzamide (0.12 g, 0.42 mmol) and catalytic pyridinium p-toluenesulfonate in toluene (8 mL) was treated with excess magnesium sulfate (0.5 g). The reaction mixture was then heated at 75° C. overnight. The reaction was cooled down to room temperature, filtered, and concentrated in vacuo to an oily residue which was redissolved in acetic acid (1.4 mL). The resulting solution was treated with borane-trimethylamine complex (0.2 g, 2.74 mmol) and stirred at room temperature for 3 h. The reaction mixture was then partition between 5 N aqueous sodium hydroxide and dichloromethane. The organic layer was separated and the aqueous layer was extracted with dichloromethane. The combined organic extracts were dried with magnesium sulfate, filtered, and concentrated in vacuo to a residue which was purified on a silica gel chromatotron plate. Elution with ethyl acetate-hexanes (95:5) then (9:1) provided the title compound (0.23 g, 87%) as a yellow oil which foamed up under vacuum. Recrystallization of the oil from ethyl acetate-hexanes provided analytically pure product (0.17 mg) as a pale-yellow crystalline solid.

reactant | 4-(tert-butyl)-2-(1-Boc-piperidine-4-yloxy)benzaldehyde | 0.42 mmol, 0.15 g | C(C)(C)(C)C1=CC(=C(C=O)C=C1)OC1CCN(CC1)C(=O)OC(C)(C)C | C21H31NO4
reactant | N-(5-chloropyridin-2-yl)-2-amino-5-chlorobenzamide | 0.42 mmol, 0.12 g | ClC=1C=CC(=NC1)NC(C1=C(C=CC(=C1)Cl)N)=O | C12H9Cl2N3O
reactant | pyridinium p-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | magnesium sulfate | 0.5 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | borane-trimethylamine complex | 2.74 mmol, 0.2 g | [B-][N+](C)(C)C | C3H9BN
solvent | toluene | 8 mL | C1(=CC=CC=C1)C | C7H8
product | 2-[4-(tert-Butyl)-2-(1-Boc-piperidin-4-yloxy)benzylamino]-5-chloro-N-(5-chloropyridin-2-yl)benzamide | 0.23 g, 87% | C(C)(C)(C)C1=CC(=C(CNC2=C(C(=O)NC3=NC=C(C=C3)Cl)C=C(C=C2)Cl)C=C1)OC1CCN(CC1)C(=O)OC(C)(C)C | C33H40Cl2N4O4
